US07834019B2
Production of 6-({4-[4-(2-ethoxyethyl)piperazin-1-yl]phenyl}amino)-1-(6-methylpyridin-2-yl)-2-(2-propynyl)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one
31.8 mg of the entitled compound was obtained as a yellow solid in the same manner as in Example 113-1 to 113-2, for which, however, 2-allyl-1-(6-methylpyridin-2-yl)-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one was used in place of 2-allyl-1-[6-(1-hydroxy-1-methylethyl)-2-pyridinyl]-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one used in Example 113-1, and 4-[4-(2-ethoxyethyl)piperazin-1-yl]aniline was used in place of 4-(4-methylpiperazin-1-yl)aniline used in Example 113-2.

reactant | 2-allyl-1-(6-methylpyridin-2-yl)-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | C(C=C)N1N(C2=NC(=NC=C2C1=O)SC)C1=NC(=CC=C1)C | C15H15N5OS
reactant | 4-[4-(2-ethoxyethyl)piperazin-1-yl]aniline | C(C)OCCN1CCN(CC1)C1=CC=C(N)C=C1 | C14H23N3O
product | 6-({4-[4-(2-ethoxyethyl)piperazin-1-yl]phenyl}amino)-1-(6-methylpyridin-2-yl)-2-(2-propynyl)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | C(C)OCCN1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C2C(=N1)N(N(C2=O)CC#C)C2=NC(=CC=C2)C | C28H32N8O2
